US04160841
A mixture of 12 parts of 1-(4-methoxyphenyl)-5-phenyl-1H-imidazole-2-thiol, 10 parts of Raney-nickel catalyst, 160 parts of ethanol, 180 parts of ethyl acetate and 36 parts of ammonium hydroxide is stirred and refluxed overnight. The solution is decanted and the residual Raney-nickel is boiled again in a mixture of 160 parts of ethanol and 180 parts of ethyl acetate. The solvent is decanted. The combined ethanol/ethyl acetate phases are evaporated. The residue is crystallized from a mixture of 2-propanol and water. The product is filtered off and dried, yielding 6.5 parts (61%) of 1-(4-methoxyphenyl)-5-phenyl-1H-imidazole; mp. 105.7° C.

reactant | 1-(4-methoxyphenyl)-5-phenyl-1H-imidazole-2-thiol | COC1=CC=C(C=C1)N1C(=NC=C1C1=CC=CC=C1)S | C16H14N2OS
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxyphenyl)-5-phenyl-1H-imidazole | 61% | COC1=CC=C(C=C1)N1C=NC=C1C1=CC=CC=C1 | C16H14N2O
